US04096267
Step F: [1-Oxo-2-(4-bromophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid
A stirred mixture of 2-(4-bromophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (4.48 g., 0.0116 mole), potassium carbonate (3.88 g., 0.0232 mole) and ethyl bromoacetate (3.21 g., 0.0232 mole) in dimethylformamide (100 ml.) is warmed at 55°-60° C. for 3 hours, then treated with water (100 ml.)-10N sodium hydroxide solution (5 ml., 0.05 mole) and heated at 100° C. for 2 hours. The reaction mixture is added slowly to crushed ice-water (1500 ml.)-12N hydrochloric acid (50 ml.) to precipitate 3.24 g. of [1-oxo-2-(4-bromophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid which melts at 171°-172° C. after crystallization from nitromethane followed by acetic acid: water, 3:2.

reactant | 2-(4-bromophenyl)-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0116 mole, 4.48 g | BrC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C16H11BrCl2O2
reactant | potassium carbonate | 0.0232 mole, 3.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.0232 mole, 3.21 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 0.05 mole, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | -10N, 100 ml | O | H2O
product | [1-Oxo-2-(4-bromophenyl)-2-methyl-6,7-dichloro-5-indanyloxy]acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1=CC=C(C=C1)Br | C18H13BrCl2O4
